US08168794B2
To a solution of (3R,5R)-benzyl 3-(tert-butyldimethylsilyloxy)-5-hydroxypiperidine-1-carboxylate (1 eq) in 30 mL of THF was added sodium hydride (1.5 eq) and followed by methyl iodide (5 eq) at 0° C. The reaction mixture was allowed to stir at room temperature for 3 hours. The crude mixture was diluted with 120 mL of EtOAc, washed with brine, then dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The crude residue was purified by flash chromatography (EtOAc:hexanes=1:5) to yield (3R,5R)-benzyl 3-(tert-butyldimethylsilyloxy)-5-methoxypiperidine-1-carboxylate (93%). LC/MS (m/z): 380.2 (MH+).

reactant | (3R,5R)-benzyl 3-(tert-butyldimethylsilyloxy)-5-hydroxypiperidine-1-carboxylate | 1 eq | [Si](C)(C)(C(C)(C)C)O[C@H]1CN(C[C@@H](C1)O)C(=O)OCC1=CC=CC=C1 | C19H31NO4Si
reactant | sodium hydride | 1.5 eq | [H-].[Na+]
reactant | methyl iodide | 5 eq | CI | CH3I
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 120 mL | CCOC(=O)C | C4H8O2
product | (3R,5R)-benzyl 3-(tert-butyldimethylsilyloxy)-5-methoxypiperidine-1-carboxylate | 93% | [Si](C)(C)(C(C)(C)C)O[C@H]1CN(C[C@@H](C1)OC)C(=O)OCC1=CC=CC=C1 | C20H33NO4Si
